US06809199B2
Diisopropylethylamine (1.78 g, 13.8 mmol) and CuI (2.63 g, 13.8 mmol) was added to N-(2,6-dibromo-4-nitrobenzyl)-N′-(2,6-dichlorophenyl)-N-(4-ethoxybenzyl)urea (4.25 g, 6.88 mmol) in DMF (150 mL). After evacuating and flushing three times with argon, the reaction mixture was heated to 130° C. for 3 h, cooled to rt, and filtered. The filtrate was concentrated under reduced pressure and purified by flash chromatography on Biotage 40M columns, eluting with 80:20 hexanes-acetone to yield 5-bromo-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-7-nitro-3,4-dihydroquinazolin-2(1H)-one. Mass spectrum (ESI) 536.0 (M+1).

reactant | Diisopropylethylamine | 13.8 mmol, 1.78 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(2,6-dibromo-4-nitrobenzyl)-N′-(2,6-dichlorophenyl)-N-(4-ethoxybenzyl)urea | 6.88 mmol, 4.25 g | BrC1=C(CN(C(=O)NC2=C(C=CC=C2Cl)Cl)CC2=CC=C(C=C2)OCC)C(=CC(=C1)[N+](=O)[O-])Br | C23H19Br2Cl2N3O4
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 13.8 mmol, 2.63 g | [Cu]I
product | 5-bromo-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-7-nitro-3,4-dihydroquinazolin-2(1H)-one | BrC1=C2CN(C(N(C2=CC(=C1)[N+](=O)[O-])C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC | C22H16BrCl2N3O4
